2182-12-11 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2182-12-10**] 07:28 PM
 EKG - At [**2182-12-10**] 08:00 PM
   o/n, nurse reported that pt got 40mg valium and became apenic w sats
   (reportedly) as low as 40
s. He was easily arousable and sats quickly
   recovered, he slept well the rest of the night w/o incident.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2182-12-10**] 07:33 PM
   Heparin Sodium (Prophylaxis) - [**2182-12-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-11**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 82 (80 - 145) bpm
   BP: 118/80(89) {99/60(73) - 143/80(89)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,788 mL
                                                                  1,197 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    548 mL
                                                                  1,197 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,788 mL
                                                                  1,197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: Chronically ill appearing disheveled  adult male,very anxious and
   tachycardic lying in bed  no acute distress.
   HEENT: PERRL, EOMI. Dry MM. Conjunctiva well pigmented.  Anicteric
   sclerae B/L
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Lungs. CTAB anterior and posterior.  tachypneic
   Cor: Normal S1, S2. regular rhythm, tachycardic rate . No murmurs
   appreciated.
   Abdomen: Soft, +BS  non-distended. Slightly TTP diffusely over
   epigastrum
   Extremity: Pain, moderate swelling and erythema over 3rd, 4th and 5th
   digits of right hand. Otherwise warm, without edema. 2+ DP pulses
   bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Diminished peripheral sensation. Positive intention
   tremor; gain assessment deferred.
   Labs / Radiology
   135 K/uL
   10.1 g/dL
   87 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   17 mg/dL
   109 mEq/L
   144 mEq/L
   30.2 %
   3.2 K/uL
        [image002.jpg]
                             [**2182-12-10**]  10:02 PM
                             [**2182-12-11**]  04:05 AM
   WBC
   3.2
   Hct
   30.2
   Plt
   135
   Cr
   0.8
   0.8
   Glucose
   161
   87
   Other labs: PT / PTT / INR:13.4/29.4/1.1, ALT / AST:91/140, Alk Phos /
   T Bili:64/1.0, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3605**] is a 37 year-old gentleman w/  severe alcoholism with
   several ICU admissions for management alchohol withdrawl in the past,
   HCV, and HBV, admitted to the [**Hospital Unit Name 44**] for alcohol withdrawal.
   .
   #. Alcohol withdrawal: Based on history and exam, epsiode of
   hypertension and tachycardia in [**Name (NI) **], pt likely experiencing alcohol
   withdrawal. Pt has already received aggressive benzodiazapine therapy
   in the ED. Will need close monitoring for further withdrawal
   treatment.
   -folate, thiamine, MVI
   -Diazepam 10 mg PO/NG Q1H:PRN CIWA > 10
   -SW consult
   - psych c/s
   -repeat labs for etoh levels and serum osms
   - fluid bolus, taking PO
   - had 1 L banana bag and 1 L NS maintenance o/n
   .
   # Hand pain: Questionable finger fracture on x-ray, although this
   location does not correspond particularly well to pt's symptoms.
   - For now will control pain without narcotics- will tx w/ motrin
   .
   #. Peripheral neuropathy: Attributed in the past to EtOH abuse. Recent
   folate and B12 within normal limits. No hx of diabetes. Will control
   pain with analgesics for now; consider more definitive therapy when
   acute issues resolved.
   - tx w/ gabapentin and thiamine, as per alcoholic neuropathy
   #. HCV/HBV: Previous hx [**Last Name (LF) **], [**First Name3 (LF) 178**] re-check with next labs.
   .
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-12-10**] 07:28 PM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer: pantoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU

2182-12-11 10:58:00 Physician Attending Progress Note
Chief Complaint: EtOH intoxication and withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight, received additional valium per CIWA scale (total 70 mg
   valium).
   No clinical evidence for seizures.
   Tachycardia improving overnight.
   No evidence for DTs.
   Unable to stand (chronic) -- uses wheelchair.
   Unable to urine while lying in bed (chronic)
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2182-12-10**] 07:33 PM
   Heparin Sodium (Prophylaxis) - [**2182-12-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**6-12**] Moderate
   Pain location: hand pain, bilateral
   Flowsheet Data as of  [**2182-12-11**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 82 (80 - 145) bpm
   BP: 118/80(89) {99/60(73) - 143/80(89)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,788 mL
                                                                  1,552 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    548 mL
                                                                  1,552 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,788 mL
                                                                  1,552 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic,
   disheveled
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   135 K/uL
   87 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   17 mg/dL
   109 mEq/L
   144 mEq/L
   30.2 %
   3.2 K/uL
        [image002.jpg]
                             [**2182-12-10**]  10:02 PM
                             [**2182-12-11**]  04:05 AM
   WBC
   3.2
   Hct
   30.2
   Plt
   135
   Cr
   0.8
   0.8
   Glucose
   161
   87
   Other labs: PT / PTT / INR:13.4/29.4/1.1, ALT / AST:91/140, Alk Phos /
   T Bili:64/1.0, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   37 yom chronic EtOH abuse and now with actue intoxication --> at risk
   for withdrawal.
   EtOH ABUSE -- acute intoxication, at risk for withdrawal and DTs.
   Received Thiamine/MVI/Folate.  Maintain Valium per CIWA scale.  Monitor
   for worsening withdrawl symptoms.
   HAND SWELLING -- Unclear etiology.  No fracture by X-Ray.  Possibly
   related to prior Heroin abuse.  Monitor exam.  Consider Rheumatology or
   Hand Surgery consultation.
   HAND PAIN / LEG PAIN
 Chronic.  Continue Neurontin, ibuprofen,
   acetominophen.
   ACIDOSIS -- anion gap.  Attributed to EtOH and starvation ketosis.
   Continue to monitor osmolar gap.  Evaluation in progress.
   FLUIDS -- hypovolemia (chronic EtOH abuse with diuresis), poor PO
   intake.  Plan continue to replete, consider iv fluid bolus.  Femoral
   central line in place --> hope to d/c once repleted.
   TACHYCARDIA -- anxiety on background of baseline tachycardia while
   awake.
   RENAL FUNCTION -- improving urine output with iv hydration.  Monitor
   urine output,
   NUTRITIONAL SUPPORT -- encourage PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-12-10**] 07:28 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2182-12-12 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Per psych recs, a decision was made to put the patient on standing
   Valium 5mg q6hrs and d/c CIWA scale.  The patient continued to ask for
   more benzos.
   - Pt. was switched to Thiamine IV 100mg daily
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-12**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 57 (57 - 117) bpm
   BP: 115/68(78) {101/68(78) - 140/96(106)} mmHg
   RR: 11 (10 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,443 mL
                                                                     74 mL
   PO:
                                                                  2,640 mL
             TF:
   IVF:
                                                                  1,803 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  3,230 mL
                                                                    560 mL
   Urine:
                                                                  3,230 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                   -486 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen: Chronically ill appearing disheveled  adult male,very anxious and
   tachycardic lying in bed  no acute distress.
   HEENT: PERRL, EOMI. Dry MM. Conjunctiva well pigmented.  Anicteric
   sclerae B/L
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Lungs. CTAB anterior and posterior.  tachypneic
   Cor: Normal S1, S2. regular rhythm, tachycardic rate . No murmurs
   appreciated.
   Abdomen: Soft, +BS  non-distended. Slightly TTP diffusely over
   epigastrum
   Extremity: Pain, moderate swelling and erythema over 3rd, 4th and 5th
   digits of right hand. Otherwise warm, without edema. 2+ DP pulses
   bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Diminished peripheral sensation. Positive intention
   tremor; gain assessment deferred.
   Labs / Radiology
   105 K/uL
   11.0 g/dL
   98 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   10 mg/dL
   108 mEq/L
   142 mEq/L
   34.4 %
   3.5 K/uL
        [image002.jpg]
                             [**2182-12-10**]  10:02 PM
                             [**2182-12-11**]  04:05 AM
                             [**2182-12-12**]  06:07 AM
   WBC
   3.2
   3.5
   Hct
   30.2
   34.4
   Plt
   135
   105
   Cr
   0.8
   0.8
   0.7
   Glucose
   161
   87
   98
   Other labs: PT / PTT / INR:13.4/29.4/1.1, ALT / AST:91/140, Alk Phos /
   T Bili:64/1.0, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3605**] is a 38 year-old gentleman w/  severe alcoholism with
   several ICU admissions for management alchohol withdrawl in the past,
   HCV, and HBV, admitted to the [**Hospital Unit Name 44**] for alcohol withdrawal.
   .
   #. Alcohol withdrawal: Based on history and exam, epsiode of
   hypertension and tachycardia in [**Name (NI) **], pt likely experiencing alcohol
   withdrawal. Pt has already received aggressive benzodiazapine therapy
   in the ED. Will need close monitoring for further withdrawal
   treatment.
   -folate, thiamine, MVI
   -Diazepam 10 mg PO/NG Q1H:PRN CIWA > 10
   -SW consult
   - psych c/s
   -repeat labs for etoh levels and serum osms
   - fluid bolus, taking PO
   - had 1 L banana bag and 1 L NS maintenance o/n
   .
   # Hand pain: Questionable finger fracture on x-ray, although this
   location does not correspond particularly well to pt's symptoms.
   - For now will control pain without narcotics- will tx w/ motrin
   .
   #. Peripheral neuropathy: Attributed in the past to EtOH abuse. Recent
   folate and B12 within normal limits. No hx of diabetes. Will control
   pain with analgesics for now; consider more definitive therapy when
   acute issues resolved.
   - tx w/ gabapentin and thiamine, as per alcoholic neuropathy
   #. HCV/HBV: Previous hx [**Last Name (LF) **], [**First Name3 (LF) 178**] re-check with next labs.
   .
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-12-10**] 07:28 PM
   Prophylaxis:
   DVT: venodynes, heparin SC
   Stress ulcer: pantoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU

2182-12-12 13:11:00 Physician Attending Progress Note
Chief Complaint: EtOH intoxication/withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced episodes of apnea and desaturation yesterday afternoon,
   required arrousal.
   No new complaints.
   Continues to complain of hand pain, stomach pain, neuropathy in legs
   (chronic symptoms, unchanged).  Requesting narcotics to control pain.
   Expresses desire to enroll in rehab program.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2182-12-12**] 01:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 80 (57 - 91) bpm
   BP: 117/74(84) {105/63(74) - 138/96(101)} mmHg
   RR: 15 (10 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,443 mL
                                                                    128 mL
   PO:
                                                                  2,640 mL
             TF:
   IVF:
                                                                  1,803 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  3,230 mL
                                                                    810 mL
   Urine:
                                                                  3,230 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,213 mL
                                                                   -682 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Disheveled
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Hands with swollen skin, not
   erythematous
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   105 K/uL
   98 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   10 mg/dL
   108 mEq/L
   142 mEq/L
   34.4 %
   3.5 K/uL
        [image002.jpg]
                             [**2182-12-10**]  10:02 PM
                             [**2182-12-11**]  04:05 AM
                             [**2182-12-12**]  06:07 AM
   WBC
   3.2
   3.5
   Hct
   30.2
   34.4
   Plt
   135
   105
   Cr
   0.8
   0.8
   0.7
   Glucose
   161
   87
   98
   Other labs: PT / PTT / INR:13.4/29.4/1.1, ALT / AST:91/140, Alk Phos /
   T Bili:64/1.0, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   37 yom chronic EtOH abuse and now with actue intoxication --> at risk
   for withdrawal.
   EtOH ABUSE -- acute intoxication, at risk for withdrawal and DTs.
   Received Thiamine/MVI/Folate.  Clinically improved.  Medically stable
   for transfer to medical [**Hospital1 **].
   HAND SWELLING -- Unclear etiology.  No fracture by X-Ray.  Possibly
   related to prior Heroin abuse.  Monitor exam.  Consider Rheumatology or
   Dermatology consultation.
   HAND PAIN / LEG PAIN
 Chronic.  Continue Neurontin, ibuprofen,
   acetominophen.
   ACIDOSIS -- anion gap.  Attributed to EtOH and starvation ketosis.
   Continue to monitor osmolar gap.  Evaluation in progress.
   FLUIDS -- hypovolemia (chronic EtOH abuse with diuresis), poor PO
   intake.  Plan continue to replete, consider iv fluid bolus.  Femoral
   central line in place --> hope to d/c once repleted.
   TACHYCARDIA -- anxiety on background of baseline tachycardia while
   awake.
   RENAL FUNCTION -- improved urine output with iv hydration.  Monitor
   urine output,
   BUN, Creatinine.
   NUTRITIONAL SUPPORT -- encourage PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-12-10**] 07:28 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes